US07635715B2
Step D: Preparation of 2-(4-Chloro-2-(2-(trimethylsilyl)ethynyl)phenyl)propanenitrile
2-(4-Chloro-2-iodophenyl)propanenitrile (0.620 g, 2.13 mmol), (trimethylsilyl)acetylene (0.451 mL, 3.19 mmol), copper(I) iodide (0.0144 mL, 0.425 mmol), dichlorobis(triphenylphosphine)palladium (II) (0.149 g, 0.213 mmol), and TEA (20 mL) were stirred at 70° C. for 3 hours. The reaction was monitored by LC-MS. The solution was filtered through a plug of Celite, and the filtrate was concentrated under vacuum. The residue was purified by silica flash chromatography, 0-15% EtOAc/hexanes. MS m/e=262 (M+H)+.

reactant | 2-(4-Chloro-2-iodophenyl)propanenitrile | 2.13 mmol, 0.620 g | ClC1=CC(=C(C=C1)C(C#N)C)I | C9H7ClIN
reactant | (trimethylsilyl)acetylene | 3.19 mmol, 0.451 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | copper(I) iodide | 0.425 mmol, 0.0144 mL | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.213 mmol, 0.149 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Chloro-2-(2-(trimethylsilyl)ethynyl)phenyl)propanenitrile | ClC1=CC(=C(C=C1)C(C#N)C)C#C[Si](C)(C)C | C14H16ClNSi
